US04215037
1. H-Tyr(But)-OMe.HCl
300 g (778 mmols) of Z-Tyr(But)-OMe (Ann. Chem. 696, page 226 (1966)) were dissolved in 1 l of methanol and catalytically hydrogenated (Pd/BaSO4 catalyst) at pH 4.5 on the autoburette (addition of about 2 N methanolic HCl). When the hydrogenation was complete, the catalyst was filtered off with suction and the filtrate was concentrated. The residue was triturated with ether.

reactant | Z-Tyr(But)-OMe | 778 mmols, 300 g | N([C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C22H27NO5
reactant | HCl | about 2 N | Cl | ClH
solvent | methanol | 1 l | CO | CH4O
catalyst | Pd BaSO4 | [Pd].[O-]S(=O)(=O)[O-].[Ba+2]
product | H-Tyr(But)-OMe.HCl | N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC.Cl | InChI=1S/C14H21NO3.ClH/c1-14(2,3)18-11-7-5-10(6-8-11)9-12(15)13(16)17-4;/h5-8,12H,9,15H2,1-4H3;1H/t12-;/m0./s1
